US07618970B2
4,4-Dimethoxytetrahydro-2H-pyran-3-ol
To a solution of 4-methoxy-3,6-dihydro-2H-pyran (5.00 g, 43.8 mmol) in methanol (100 mL) at 0° C. was dropwise added a solution of m-chloroperbenzoic acid (15.1 g, 87.6 mmol) in methanol (15 mL). After being stirred for 5 h, methanol was removed in vacuo and the white residue was dissolved in methylene chloride (300 mL). To the solution was added K2CO3. The resulting solution was stirred for 1 h and filtered through celite. The filtrate was evaporated in vacuo to provide the desired product which was used directly for the next reaction without purification.

reactant | 4-methoxy-3,6-dihydro-2H-pyran | 43.8 mmol, 5.00 g | COC=1CCOCC1 | C6H10O2
reactant | m-chloroperbenzoic acid | 87.6 mmol, 15.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | methanol | 100 mL | CO | CH4O
reactant | methanol | 15 mL | CO | CH4O
product | 4,4-Dimethoxytetrahydro-2H-pyran-3-ol | COC1(C(COCC1)O)OC | C7H14O4
